US04582909
Preparation of 2,3-dihydro-1-(4-methoxybenzoyl)-2-oxo-1H-indole-7-acetic acid phenylmethyl ester
A solution of 28.1 g (0.1 mole) 2,3-dihydro-2-oxo-1H-indole-7-acetic acid phenylmethyl ester in 400 ml of toluene is treated with 17.1 g (0.1 mole) of 4-methoxybenzoyl chloride. The mixture is heated at 70° C. with stirring and a solution of 10.2 g (0.1 mole) of triethylamine in 100 ml of toluene is added dropwise.

reactant | 2,3-dihydro-2-oxo-1H-indole-7-acetic acid phenylmethyl ester | 0.1 mole, 28.1 g | C1(=CC=CC=C1)COC(CC=1C=CC=C2CC(NC12)=O)=O | C17H15NO3
reactant | 4-methoxybenzoyl chloride | 0.1 mole, 17.1 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | triethylamine | 0.1 mole, 10.2 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dihydro-1-(4-methoxybenzoyl)-2-oxo-1H-indole-7-acetic acid phenylmethyl ester | C1(=CC=CC=C1)COC(CC=1C=CC=C2CC(N(C12)C(C1=CC=C(C=C1)OC)=O)=O)=O | C25H21NO5
